US08119663B2
Methyl 5-(4-ethylphenyl)-1-(morpholin-4-ylcarbonyl)piperidine-3-carboxylate [racemic cis/trans isomer mixture]
6.2 g (22.6 mmol) of methyl 5-(4-ethylphenyl)piperidine-3-carboxylate and 4.4 g (29.4 mmol, 1.3 eq.) of morpholine-4-carbonyl chloride were reacted according to the General Method 3A. Yield: 7.9 g (97% of theory)

reactant | methyl 5-(4-ethylphenyl)piperidine-3-carboxylate | 22.6 mmol, 6.2 g | C(C)C1=CC=C(C=C1)C1CC(CNC1)C(=O)OC | C15H21NO2
reactant | morpholine-4-carbonyl chloride | 29.4 mmol, 4.4 g, 1.3 eq. | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | Methyl 5-(4-ethylphenyl)-1-(morpholin-4-ylcarbonyl)piperidine-3-carboxylate | C(C)C1=CC=C(C=C1)C1CC(CN(C1)C(=O)N1CCOCC1)C(=O)OC | C20H28N2O4
